US07217724B2
N,N-Diethyl-2-(1H-indol-7-yloxy)acetamide
To a solution of 7-hydroxyindole (2.65 g, 20 mmol) in acetone (20 ml) are added potassium carbonate (3.32 g), chloroacetic acid diethylamide (3.29 g, 22 mmol) and potassium iodide (0.33 g), and the mixture is refluxed for 4 hours. After cooling with ice, the insoluble materials are removed by filtration, and the filtrate is concentrated under reduced pressure to remove the solvent. To the residue are added chloroform (40 ml) and water (20 ml), and the mixture is stirred. The chloroform layer is separated, and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and isopropyl ether (100 ml) is added to the residue. The precipitated crystals are collected by filtration, and dried to give the title compound N,N-diethyl-2-(1H-indol-7-yloxy)acetamide (4.37 g, yield: 89%) as white crystals.

reactant | 7-hydroxyindole | 20 mmol, 2.65 g | OC=1C=CC=C2C=CNC12 | C8H7NO
reactant | potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid diethylamide | 22 mmol, 3.29 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | potassium iodide | 0.33 g | [I-].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N,N-diethyl-2-(1H-indol-7-yloxy)acetamide | 4.37 g, yield: 89% | C(C)N(C(COC=1C=CC=C2C=CNC12)=O)CC | C14H18N2O2
